US08975398B2
1-neopentyl-4-(4-nitrophenyl)-1H-imidazole
To a solution of 4-(4-nitrophenyl)-1H-imidazole (0.500 g, 2.64 mmol) in N,N-dimethylformamide (10 ml) was added cesium carbonate (1.292 g, 3.96 mmol) followed by 1-bromo-2,2-dimethylpropane (0.366 ml, 2.91 mmol). After heating at 85° overnight, the reaction mixture was cooled to room temperature, diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, filtered and concentrated. Normal phase chromatography provided the title compound.

reactant | 4-(4-nitrophenyl)-1H-imidazole | 2.64 mmol, 0.500 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=CNC1 | C9H7N3O2
reactant | cesium carbonate | 3.96 mmol, 1.292 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2,2-dimethylpropane | 2.91 mmol, 0.366 ml | BrCC(C)(C)C | C5H11Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-neopentyl-4-(4-nitrophenyl)-1H-imidazole | C(C(C)(C)C)N1C=NC(=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C14H17N3O2
